US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-nitro-phenyl)-acrylonitrile (Compound 33)
3-Nitrobenzaldehyde (3.02 g) and 3,4-dimethoxybenzyl cyanide (3.54 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (6.01 g, yield: 97%).

reactant | 3-Nitrobenzaldehyde | 3.02 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3,4-dimethoxybenzyl cyanide | 3.54 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-nitro-phenyl)-acrylonitrile | 6.01 g, yield: 97% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O4
